US08138181B2
Step 3A: Preparation of (trans)-naphthalen-2-ylmethyl 3-hydroxy-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)pyrrolidine-1-carboxylate:
Cs2CO3. (0.2201 g, 1.141 mmol) was added to a solution of 2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-ol (0.294 g, 0.878 mmol) and (cis)-naphthalen-2-ylmethyl 6-oxa-3-azabicyclo[3.1.0]hexane-3-carboxylate (0.260 g, 0.966 mmol) in DMF (4.5 mL). The reaction was heated to 100° C. overnight, then cooled and poured into 30 mL of ice water. This mixture was extracted with 25%. IP A in CH2Cl2, and the organic layer was dried over sodium sulfate and condensed. The residue was purified by silica gel chromatography, eluting with gradient from 1% to 25% MeOH (with 6% NH4OH) in EtOAc, to collect 223 mg of the desired product. MS APCI (+) m/z 605.1 (M+1) detected.

reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-ol | 0.878 mmol, 0.294 g | COCCOC1=CC=2N(C=C1)C(=CN2)C2=NC1=C(C=CC=C1C=C2)O | C19H17N3O3
reactant | (cis)-naphthalen-2-ylmethyl 6-oxa-3-azabicyclo[3.1.0]hexane-3-carboxylate | 0.966 mmol, 0.260 g | [C@@H]12CN(C[C@H]2O1)C(=O)OCC1=CC2=CC=CC=C2C=C1 | C16H15NO3
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
product | (trans)-naphthalen-2-ylmethyl 3-hydroxy-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)pyrrolidine-1-carboxylate | O[C@@H]1CN(C[C@H]1OC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC)C(=O)OCC2=CC1=CC=CC=C1C=C2 | C35H32N4O6
